US04548940
2-(3-Aminopropylamino)-3-methyl-5-nitropyridine, (1.58 g) and 2-nitroamino-5-(6-methylpyrid-3-ylmethyl)-4-pyrimidone (1.44 g) were heated together under reflux in pyridine (3 ml) for 22 hr. On cooling, the mixture was treated with ethanol and a mustard coloured solid filtered off (1.88 g,) m.p. 166°-68° C. Recrystallisation from dimethyl formamide/ethanol and finally twice from dimethyl formamide/water gave 2-[3-(3-methyl-5-nitropyrid-2-ylamino)propylamino]-5-(6-methylpyrid-3-ylmethyl)-4-pyrimidone hemihydrate (1.67 g; 74%) m.p. 110° C. (softens).

reactant | 2-(3-Aminopropylamino)-3-methyl-5-nitropyridine | 1.58 g | NCCCNC1=NC=C(C=C1C)[N+](=O)[O-] | C9H14N4O2
reactant | 2-nitroamino-5-(6-methylpyrid-3-ylmethyl)-4-pyrimidone | 1.44 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C | C11H11N5O3
reactant | ethanol | C(C)O | C2H6O
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 2-[3-(3-methyl-5-nitropyrid-2-ylamino)propylamino]-5-(6-methylpyrid-3-ylmethyl)-4-pyrimidone hemihydrate | 1.67 g, 74% | O.CC=1C(=NC=C(C1)[N+](=O)[O-])NCCCNC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C.CC=1C(=NC=C(C1)[N+](=O)[O-])NCCCNC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C | InChI=1S/2C20H23N7O3.H2O/c2*1-13-8-17(27(29)30)12-24-18(13)21-6-3-7-22-20-25-11-16(19(28)26-20)9-15-5-4-14(2)23-10-15;/h2*4-5,8,10-12H,3,6-7,9H2,1-2H3,(H,21,24)(H2,22,25,26,28);1H2
